US08217176B2
Production of 5-(4-chlorobenzyl)-N-[1-(hydroxyacetyl)piperidin-4-yl]-3-methoxy-1-methyl-4-oxo-4,5-dihydro-1H-pyrrolo[3,2-c]quinoline-2-carboxamide
A solution of 2-[4-({[5-(4-chlorobenzyl)-3-methoxy-1-methyl-4-oxo-4,5-dihydro-1H-pyrrolo[3,2-c]quinolin-2-yl]carbonyl}amino)piperidin-1-yl]-2-oxoethyl acetate (60 mg) and potassium carbonate (72 mg, 0.52 mmol) in THF (2 mL)-methanol (1 mL)-water (1 mL) was stirred at room temperature for 3 hr. The reaction mixture was diluted with saturated sodium hydrogen carbonate solution, and extracted twice with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give the title compound (7 mg, 2%) as white crystals.

reactant | 2-[4-({[5-(4-chlorobenzyl)-3-methoxy-1-methyl-4-oxo-4,5-dihydro-1H-pyrrolo[3,2-c]quinolin-2-yl]carbonyl}amino)piperidin-1-yl]-2-oxoethyl acetate | 60 mg | C(C)(=O)OCC(=O)N1CCC(CC1)NC(=O)C1=C(C=2C(N(C=3C=CC=CC3C2N1C)CC1=CC=C(C=C1)Cl)=O)OC | C30H31ClN4O6
reactant | potassium carbonate | 0.52 mmol, 72 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 1 mL | CO | CH4O
reactant | water | 1 mL | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 5-(4-chlorobenzyl)-N-[1-(hydroxyacetyl)piperidin-4-yl]-3-methoxy-1-methyl-4-oxo-4,5-dihydro-1H-pyrrolo[3,2-c]quinoline-2-carboxamide | 7 mg, 2% | ClC1=CC=C(CN2C(C3=C(C=4C=CC=CC24)N(C(=C3OC)C(=O)NC3CCN(CC3)C(CO)=O)C)=O)C=C1 | C28H29ClN4O5
